US04652651
4.0 g (11 mmol) of t-butyl(3S,4S)-1-(2,4-dimethoxybenzyl)-4-formyl-2-oxo-3-azetidinecarbamate are dissolved in 300 ml of methylene chloride and the solution obtained is treated dropwise with a solution of 3.9 g (12 mmol) of carbamoylmethylene-triphenylphosphorane in 100 ml of methylene chloride. After 1 hour, the mixture is filtered and the crystals obtained are washed with methylene chloride. There are obtained 3.6 g (81%) of t-butyl(3R,4S)-1-(2,4-dimethoxybenzyl)-4-[(E)-2-carbamoylvinyl]-2-oxo-3-azetidinecarbamate of melting point 270° C.

reactant | t-butyl(3S,4S)-1-(2,4-dimethoxybenzyl)-4-formyl-2-oxo-3-azetidinecarbamate | 11 mmol, 4.0 g | COC1=C(CN2C([C@H]([C@H]2C=O)NC(=O)OC(C)(C)C)=O)C=CC(=C1)OC | C18H24N2O6
reactant | carbamoylmethylene-triphenylphosphorane | 12 mmol, 3.9 g | C(N)(=O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C20H18NOP
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | t-butyl(3R,4S)-1-(2,4-dimethoxybenzyl)-4-[(E)-2-carbamoylvinyl]-2-oxo-3-azetidinecarbamate | 3.6 g, 81% | COC1=C(CN2C([C@@H]([C@@H]2\C=C\C(N)=O)NC(=O)OC(C)(C)C)=O)C=CC(=C1)OC | C20H27N3O6
